US06184244B2
N-[(1-methyl-3-isobutyl-indole-2-carbonyl)cyclohexylaianinyl]-3-amino-4-oxo-5-(2,3,5,6-tetrafluorophenyloxy)-pentanoic acid
Treatment of N-[(1-methyl-3-isobutyl-indole-2-carbonyl)cyclohexylalaninyl]-3-amino-4-oxo-5-(2,3,5,6-tetrafluorophenyloxy)-pentanoic acid, tert-butyl ester with TFA as described in Example 80 gave the titled product (55.5 mg) as a white powder. MS C34H39F4N3O6, [M+Na]+ =684, [M−H]− =660. TLC (CH2Cl2/MeOH, 90/10): Rf=0.24.

reactant | N-[(1-methyl-3-isobutyl-indole-2-carbonyl)cyclohexylalaninyl]-3-amino-4-oxo-5-(2,3,5,6-tetrafluorophenyloxy)-pentanoic acid, tert-butyl ester | CN1C(=C(C2=CC=CC=C12)CC(C)C)C(=O)N([C@@H](C)C(=O)NC(CC(=O)OC(C)(C)C)C(COC1=C(C(=CC(=C1F)F)F)F)=O)C1CCCCC1 | C38H47F4N3O6
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
product | N-[(1-methyl-3-isobutyl-indole-2-carbonyl)cyclohexylaianinyl]-3-amino-4-oxo-5-(2,3,5,6-tetrafluorophenyloxy)-pentanoic acid | 55.5 mg | CN1C(=C(C2=CC=CC=C12)CC(C)C)C(=O)N([C@@H](C)C(=O)NC(CC(=O)O)C(COC1=C(C(=CC(=C1F)F)F)F)=O)C1CCCCC1 | C34H39F4N3O6
